US07498339B2
Step 3: 3H-Spiro[2-benzofuran-1,4′-piperidine]
1′-Benzyl-3H-spiro[2-benzofuran-1,4′-piperidine] (119 g, 425.9 mmol) was dissolved EtOH (1 L) under argon and treated with Raney nickel (12 g) at ambient temperature for 1 h to absorb impurities which tended to poison the catalyst. Raney nickel was filtered off and the filtrate was hydrogenated in a steel autoclave over 10% Pd/C (Degussa Nr. 1835) (12 g) at 5 bar hydrogen pressure and 40° C. for 19 h. According to HPLC there was still 2.7% of starting material present. Thus the catalyst was filtered off, fresh 10% Pd/C (4 g) was added to the filtrate, and hydrogenation under the same condition was continued for 24 h. Filtration of the catalyst and evaporation of EtOH gave a light yellow oil, which crystallized spontaneously upon stirring with heptane (1 L) to give a white solid (65 g, 80%). MS: m/z=190 [M+H]+.

reactant | 1′-Benzyl-3H-spiro[2-benzofuran-1,4′-piperidine] | 425.9 mmol, 119 g | C(C1=CC=CC=C1)N1CCC2(CC1)OCC1=C2C=CC=C1 | C19H21NO
catalyst | Raney nickel | 12 g | [Ni] | Ni
solvent | EtOH | 1 L | CCO | C2H6O
product | 3H-Spiro[2-benzofuran-1,4′-piperidine] | 65 g, 80% | N1CCC2(CC1)OCC1=C2C=CC=C1 | C12H15NO
